US07541477B2
Production of N-{2-[isopropyl(methyl)amino]-1H-benzimidazol-6-yl}-N-methyl-5-[4-(trifluoromethyl)phenyl]-1,2,4-oxadiazole-3-carboxamide
Thus obtained mixture (207 mg) of tert-butyl 5-[(t-butoxycarbonyl)(methyl)amino]-2-[isopropyl(methyl)amino-1H-benzimidazole-1-carboxylate and tert-butyl 6-[(t-butoxycarbonyl)(methyl)amino]-2-[isopropyl(methyl)amino]-1H-benzimidazole-1-carboxylate was dissolved in trifluoroacetic acid (2 ml) and stirred for 3.5 hours. The reaction liquid was made alkaline by addition of 4N-aqueous NaOH solution and extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate to provide an oily substance (117 mg). Thus obtained amine-form (61 mg) was dissolved in dimethylformamide (2.5 ml), and to the solution carboxylic acid (61 mg), WSC.HCl (67 mg), HOBt.monohydrate (47 mg) and sodium hydrogencarbonate (79 mg) were added, followed by stirring at room temperature for 15 hours. Water was added and the system was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The organic layer was condensed under reduced pressure and purified on preparative TLC (methanol/chloroform=1/9) to provide the title compound (34 mg).

reactant | tert-butyl 6-[(t-butoxycarbonyl)(methyl)amino]-2-[isopropyl(methyl)amino]-1H-benzimidazole-1-carboxylate | C(C)(C)(C)OC(=O)N(C=1C=CC2=C(N(C(=N2)N(C)C(C)C)C(=O)OC(C)(C)C)C1)C | C22H34N4O4
reactant | NaOH | [OH-].[Na+]
reactant | WSC.HCl | 67 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | sodium hydrogencarbonate | 79 mg | C(O)([O-])=O.[Na+]
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-{2-[isopropyl(methyl)amino]-1H-benzimidazol-6-yl}-N-methyl-5-[4-(trifluoromethyl)phenyl]-1,2,4-oxadiazole-3-carboxamide | 34 mg | C(C)(C)N(C1=NC2=C(N1)C=C(C=C2)N(C(=O)C2=NOC(=N2)C2=CC=C(C=C2)C(F)(F)F)C)C | C22H21F3N6O2
